US07618975B2
(2-Methylamino-quinazolin-4-yl)-(4-methoxy-phenyl)-methyl-amine
The title compound was prepared from (2-chloro-quinazolin-4-yl)-(4-methoxy-phenyl)-methyl-amine (150 mg, 0.5 mmol), 2.0 M methylamine in THF (2.0 ml, 4 mmol) by a procedure similar to that of example 122 (53.7%). 1H NMR (CDCl3): 7.45 (d, J=7.8 Hz, 1H), 7.39-7.33 (m, 1H), 7.11-7.07 (m, 2H), 6.90-6.87 (m, 3H), 6.69-6.64 (m, 1H), 4.95 (brs, 1H), 3.82 (s, 3H), 3.50 (s, 3H), 3.11 (d, J=5.1 Hz, 3H).

reactant | (2-chloro-quinazolin-4-yl)-(4-methoxy-phenyl)-methyl-amine | 0.5 mmol, 150 mg | ClC1=NC2=CC=CC=C2C(=N1)N(C)C1=CC=C(C=C1)OC | C16H14ClN3O
reactant | methylamine | 2.0 M | CN | CH5N
reactant | THF | 4 mmol, 2.0 ml | C1CCOC1 | C4H8O
product | (2-Methylamino-quinazolin-4-yl)-(4-methoxy-phenyl)-methyl-amine | CNC1=NC2=CC=CC=C2C(=N1)N(C)C1=CC=C(C=C1)OC | C17H18N4O
